US05312826
A mixture of 36.5 g of 4-methoxycarbonyl-5-{2-(benzyloxycarbonylamino)ethyl}oxazole, 90 ml of concentrated hydrochloric acid and 270 ml of methanol was stirred at 55° C. for 6 hours. After removing the solvent, the residue was dissolved in tetrahydrofuran, and the solution was neutralized with 21 ml of triethylamine. Further, the solution was cooled to 0° C., and to the solution was added 450 ml of formic acid and was added dropwise 150 ml of acetic anhydride at the same temperature. The mixture was stirred at 10° C. for 3 hours, and ice water was added thereto. The solvent was removed, and then the residue was dissolved in ethyl acetate. The mixture was washed and dried, and then the solvent was removed. The residue was purified by silica gel chromatography to obtain 20 g of methyl 3-oxo-5-(benzyloxycarbonylamino)-2-(formylamino)pentanoate as a colorless oily product.

reactant | 4-methoxycarbonyl-5-{2-(benzyloxycarbonylamino)ethyl}oxazole | 36.5 g | COC(=O)C=1N=COC1CCNC(=O)OCC1=CC=CC=C1 | C15H16N2O5
reactant | hydrochloric acid | 90 ml | Cl | ClH
reactant | methanol | 270 ml | CO | CH4O
product | methyl 3-oxo-5-(benzyloxycarbonylamino)-2-(formylamino)pentanoate | 20 g | O=C(C(C(=O)OC)NC=O)CCNC(=O)OCC1=CC=CC=C1 | C15H18N2O6
